US04559354
The mixture of 17.0 g of 2-(4-hydroxyphenyl)-4-methyl-6-(trifluoromethyl)-pyrimidine, 23.1 g of potassium carbonate and 135 ml of epichlorohydrin is stirred at a temperature of 130° for 1.5 hours, then filtered with suction while hot; the filter residue is subsequently washed with methylene chloride and the filtrate is evaporated to dryness under reduced pressure. The residue is recrystallised from isopropanol and yields 2-[4-(2,3-epoxypropoxy)-phenyl]-4-methyl-6-(trifluoromethyl)pyrimidine having a melting point of 97°-99°.

reactant | 2-(4-hydroxyphenyl)-4-methyl-6-(trifluoromethyl)-pyrimidine | 17.0 g | OC1=CC=C(C=C1)C1=NC(=CC(=N1)C)C(F)(F)F | C12H9F3N2O
reactant | potassium carbonate | 23.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | epichlorohydrin | 135 ml | C(Cl)C1CO1 | C3H5ClO
product | 2-[4-(2,3-epoxypropoxy)-phenyl]-4-methyl-6-(trifluoromethyl)pyrimidine | O1C(COC2=CC=C(C=C2)C2=NC(=CC(=N2)C)C(F)(F)F)C1 | C15H13F3N2O2
